US05122537
(E)-1-(N-formylaminovinyl)-2-methoxynaphthalene [I, (A), R=CH3, R1 =R2 =H, n=1]
To a solution of 1-(1-phenylsulfinyl-2-formylaminoethyl)-2-methoxynaphthalene (3534 mg, 10 mmol) in toluene (60 ml) is added sodium carbonate (1060 mg, 10 mmol) and the mixture heated at reflux for 6 h. Then the mixture is filtered after cooling and the filtrate concentrated in vacuo. The residue is subjected to column chromatography over silica gel using as eluant cyclohexane/ethyl acetate (1:1) to give pure title compound with m.p. 160°-2° C., in 90% yield (1850 mg).

reactant | 1-(1-phenylsulfinyl-2-formylaminoethyl)-2-methoxynaphthalene | 10 mmol, 3534 mg | C1(=CC=CC=C1)S(=O)C(CNC=O)C1=C(C=CC2=CC=CC=C12)OC | C20H19NO3S
reactant | sodium carbonate | 10 mmol, 1060 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-1-(N-formylaminovinyl)-2-methoxynaphthalene | 90% yield | C(=O)N/C=C/C1=C(C=CC2=CC=CC=C12)OC | C14H13NO2
